US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid amide
Prepare by the method of example 27.3.1 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.75 g, 1.4 mmol) and 4-(chloro-phenyl)-piperidine-4-carboxylic acid amide hydrochloride (1.85 mmol) to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 1.4 mmol, 0.75 g | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-(chloro-phenyl)-piperidine-4-carboxylic acid amide hydrochloride | 1.85 mmol | Cl.ClC1=C(C=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=C(C=C1)Cl | C34H38Cl3N3O5
